US05614534
Preparation of N,N,β,β-tetramethyl-4-piperidineethanamine
A solution of 2 g (1.1×10-2 mole ) of N,N,β,β-tetramethyl-4-pyridineethanamine in 400 ml of acetic acid was hydrogenated in a Parr's apparatus at 50° C. at a hydrogen pressure of 3.106Pa in the presence of platinum dioxide. After eliminating the catalyst by filtering, the solvents were evaporated off under reduced pressure. The residue obtained was taken up in an aqueous 30% sodium hydroxide solution and extracted with methylene chloride. The organic phase was washed, dried over magnesium sulphate and filtered and the solvents were evaporated off under reduced pressure. 1.9 g (yield: 92%) of the desired compound was obtained as an oil. B Pt=60°-64° C. under 0.02 mm Hg (i.e. about 2.66 Pa)

reactant | N,N,β,β-tetramethyl-4-pyridineethanamine | 1.1×10-2 mole, 2 g | CN(CC(C1=CC=NC=C1)(C)C)C | C11H18N2
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
catalyst | platinum dioxide | [Pt](=O)=O
product | N,N,β,β-tetramethyl-4-piperidineethanamine | 1.9 g, yield: 92% | CN(CC(C1CCNCC1)(C)C)C | C11H24N2
